US05006522
(a) 4,9-Dihydro-3-methyl-4-(prop-2-ynyl)-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example la) from 4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 3-bromo-prop-1-yne in the presence of butyllithium and tetrahydrofuran in a yield of 50% of theory. The crude crystalline product was used for subsequent reactions without being further purified by chromatography.

reactant | 4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CC=1SC=C2C1NC1=C(NC2=O)C=CC=C1 | C12H10N2OS
reactant | 3-bromo-prop-1-yne | BrCC#C | C3H3Br
reactant | butyllithium | C(CCC)[Li]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4,9-Dihydro-3-methyl-4-(prop-2-ynyl)-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 50% | CC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)CC#C | C15H12N2OS
